US07442839B2
i) 1-[(1-Allylbut-3-enyl)sulfonyl]-3-bromobenzene
To a stirred solution of 3-bromophenyl methyl sulfone (Tet. Left. 1994, 35, 9063; 4.74 g) in THF (200 ml) at −78° under nitrogen was added a solution of lithium bis(trimethylsilyl)amide (19 ml, 1.06M in THF) dropwise. The mixture was stirred for 25 min before a solution of allyl bromide (2.44 g) in THF (10 ml) was added. The mixture was allowed to stir at −78° for 1.5 h then quenched with an aqueous solution of ammonium chloride. The product was extracted with EtOAc, and the organic phase washed with brine, dried (MgSO4) and evaporated to dryness. The residual oil was purified on a silica SPE bond elut cartridge (100 g) using a gradient of 5%-40% diethyl ether in cyclohexane (Gradmaster™). The appropriate fractions were evaporated to give the title compound (1.66 g) LCMS RT=3.40 min.

reactant | 3-bromophenyl methyl sulfone | 4.74 g | CS(=O)(=O)C1=CC(=CC=C1)Br | C7H7BrO2S
reactant | lithium bis(trimethylsilyl)amide | 1.06M, 19 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | allyl bromide | 2.44 g | C(C=C)Br | C3H5Br
reactant | THF | 200 ml | C1CCOC1 | C4H8O
reactant | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-[(1-Allylbut-3-enyl)sulfonyl]-3-bromobenzene | 1.66 g | C(C=C)C(CC=C)S(=O)(=O)C1=CC(=CC=C1)Br | C13H15BrO2S
